US08110588B2
5-(2-Chloro-4-fluoro-phenyl)-3-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine (25)
To a stirred and ice-cooled solution of 1-azido-4-methoxy-benzene (1.000 g, 6.7046 mmol) and 2-chloro-4-fluoro phenyl acetonitrile (1.758 g, 10.0569 mmol) in absolute ethanol (15 ml), an ice-cooled solution of sodium methoxide (0.435 g, 8.0455 mmol) in absolute ethanol (10 ml) is added drop-wise. The resulting reaction mixture is evaporated and the residue is dissolved in methylene chloride and washed with water, brine, dried over MgSO4, filtered and evaporated to afford ˜2.2 g of crude material as brownish solid. This material is purified by crystallization from methylene chloride and petroleum ether, to obtain the title compound as yellowish solid (1.42 g, 66% yield). M.p. 175-176.8° C. LC-ESI-HRMS of [M+H]+ shows 319.0745 Da. Calc. 319.076192 Da, dev. −5.3 ppm.

reactant | 1-azido-4-methoxy-benzene | 6.7046 mmol, 1.000 g | N(=[N+]=[N-])C1=CC=C(C=C1)OC | C7H7N3O
reactant | 2-chloro-4-fluoro phenyl acetonitrile | 10.0569 mmol, 1.758 g | ClC1=C(C=CC(=C1)F)CC#N | C8H5ClFN
reactant | sodium methoxide | 8.0455 mmol, 0.435 g | C[O-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-(2-Chloro-4-fluoro-phenyl)-3-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine | 1.42 g, 66% yield | ClC1=C(C=CC(=C1)F)C1=C(N(N=N1)C1=CC=C(C=C1)OC)N | C15H12ClFN4O
